US07446222B2
N-[1-(2-Benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-2″-yl)-methanoyl]-benzenesulfonamide
A mixture of 2-benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-2″-carboxylic acid (100 mg, 0.24 mmol), benzenesulphonamide (46 mg, 0.29 mmol), EDC (56 mg, 0.29 mmol), and 4-dimethylaminopyridine (5 mg, 0.03 mmol) in 1:1 dichloromethane/tetrahydrofuran (4 ml) was stirred at room temperature for 16 hours. The mixture was diluted with ethyl acetate (10 ml) and washed with aq. sodium bicarbonate (5 ml), dilute hydrochloric acid (5 ml), water (5 ml), and brine (5 ml). The organic phase was dried and evaporated. Purification by prep. HPLC gave the title compound. (27 mg 20%).

reactant | 2-benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-2″-carboxylic acid | 0.24 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C=1C(=CC=CC1)C=1C(=CC=CC1)C(=O)O | C26H19ClO3
reactant | benzenesulphonamide | 0.29 mmol, 46 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | EDC | 0.29 mmol, 56 mg
reactant | dichloromethane tetrahydrofuran | 4 ml | ClCCl.O1CCCC1
catalyst | 4-dimethylaminopyridine | 0.03 mmol, 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-[1-(2-Benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-2″-yl)-methanoyl]-benzenesulfonamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C=1C(=CC=CC1)C1=C(C=CC=C1)C(=O)NS(=O)(=O)C1=CC=CC=C1 | C32H24ClNO4S
